US06583126B2
Step 2 N-(2,5-dimethylphenyl)-N-{4-[2-(4-fluorophenyl)-2-oxoethyl]phenyl}urea
To a solution of 4-[2-(4-fluorophenyl)-2-oxoethyl]benzoic acid (0.100 g, 0.387 mmol) in acetonitrile was added proton sponge ((0.083 g) and diphenylphosphoryl azide (0.106 g). The reaction mixture was refluxed for 30 minutes. 2,5-dimethyl aniline (0.047 g, 0.388 mmol) was added and the mixture was refluxed another 30 minutes. The reaction was quenched with HCl 1 M and extracted with ethyl acetate, dried over sodium sulfate, filtered and evaporated to dryness. The residue was purified using flash chromatography eluting with hexane/ethyl acetate 40% to give (0.052 g) of the title compound.

reactant | 4-[2-(4-fluorophenyl)-2-oxoethyl]benzoic acid | 0.387 mmol, 0.100 g | FC1=CC=C(C=C1)C(CC1=CC=C(C(=O)O)C=C1)=O | C15H11FO3
reactant | proton sponge | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | diphenylphosphoryl azide | 0.106 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2,5-dimethyl aniline | 0.388 mmol, 0.047 g | CC1=C(N)C=C(C=C1)C | C8H11N
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(2,5-dimethylphenyl)-N-{4-[2-(4-fluorophenyl)-2-oxoethyl]phenyl}urea | 0.052 g | CC1=C(C=C(C=C1)C)N(C(=O)N)C1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)F | C23H21FN2O2
